US09085562B2
d. Preparation of 6-methyl-4-(pyrimidin-5-yloxy)picolinonitrile
4-chloro-6-methylpicolinonitrile (4.0 g, 26 mmol, 1.0 eq), 5-hydroxypyrimidine (5.56 g, 57.9 mmol, 2.20 eq), K2CO3 (7.24 mg, 52.4 mmol, 2.0 eq) and DMF (66 mL) were added to a reaction vessel and heated at 80° C. for 16 hours. The reaction was filtered and concentrated on silica gel (25 g). The silica gel was loaded on top of a fresh bed of silica gel and washed with 50% ethyl acetate/hexane. The solvents were removed in vacuo and the crude solid was purified by flash chromatography on silica gel to afford 4.31 g (77%) of the title compound as a pale-yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 9.17 (s, 1H), 8.85 (s, 2H), 7.74 (d, J=2.4 Hz, 1H), 7.32 (d, J=2.3 Hz, 1H), 2.48 (s, 3H); ES-MS [M+1]+: 213.2.

reactant | 4-chloro-6-methylpicolinonitrile | 26 mmol, 4.0 g, 1.0 eq | ClC1=CC(=NC(=C1)C)C#N | C7H5ClN2
reactant | 5-hydroxypyrimidine | 57.9 mmol, 5.56 g, 2.20 eq | OC=1C=NC=NC1 | C4H4N2O
reactant | K2CO3 | 52.4 mmol, 7.24 mg, 2.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 66 mL | CN(C)C=O | C3H7NO
product | 6-methyl-4-(pyrimidin-5-yloxy)picolinonitrile | 4.31 g, 77% | CC1=CC(=CC(=N1)C#N)OC=1C=NC=NC1 | C11H8N4O
